US05929094
Step B: N-(2-bromo-6-methoxy-4-nitrophenyl)acetamide
A solution of 23 g of 2-bromo-6-methoxy-4-nitrophenylamine in 125 mL of acetic anhydride and 100 mL of AcOH was refluxed at 110° C. Following reflux for 5 h, mixture was dumped into 1.5 L of ice water. A precipitate formed, and was collected via filtration. The precipitate was then placed in EtOH and refluxed for 15 min. 9 mL of conc. NH4OH was then added to the hot mixture. The solution was then cooled, and a precipitate formed and collected again via filtration. The solid was washed with ethanol(2×) and ether, and allowed to air dry. 21.5 g of title compound as a tan powder was collected.

reactant | 2-bromo-6-methoxy-4-nitrophenylamine | 23 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])OC)N | C7H7BrN2O3
reactant | acetic anhydride | 125 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
product | N-(2-bromo-6-methoxy-4-nitrophenyl)acetamide | BrC1=C(C(=CC(=C1)[N+](=O)[O-])OC)NC(C)=O | C9H9BrN2O4
